* Z:\mnt\design.r\spice\examples\3487.asc
V1 IN 0 5
L1 IN N001 15µ Rser=.1
C1 -V 0 22µ
C2 N003 N001 2.2µ
L2 -V N003 15µ Rser=.1
R1 N005 -V 324K
R2 N004 N006 549K
XU1 N004 N002 IN N001 N003 IN N005 N007 N006 +V 0 LT3487
L3 IN N002 10µ
C3 N007 0 .001µ
C4 N004 0 4.7µ
C5 N004 +V .1µ
Rload2 +V 0 333
Rload1 -V 0 100
C6 N005 -V 47p
.tran 2m startup
.lib LT3487.sub
.backanno
.end
